US05189036
4-[[(Butoxy)carbonyl]amino]piperidine-1-carboxylic acid, phenylmethyl ester
In a manner similar to that described in Preparation 6, 1-[(phenylmethoxy)carbonyl]piperidine-4-carboxylic acid and 1-butanol are reacted to give the title compound.

reactant | 1-[(phenylmethoxy)carbonyl]piperidine-4-carboxylic acid | C1(=CC=CC=C1)COC(=O)N1CCC(CC1)C(=O)O | C14H17NO4
solvent | 1-butanol | C(CCC)O | C4H10O
product | 4-[[(Butoxy)carbonyl]amino]piperidine-1-carboxylic acid, phenylmethyl ester | C(CCC)OC(=O)NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H26N2O4
